US05221676
5-Amino7-[3-[2-(aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
Starting from 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (1.00 g, 4.0 mmol) and 2-(3-pyrrolidinyl)-benzenemethanamine, a procedure analogous to that given in Example 1 provided the title compound (0.65 g, 48%) as a bright yellow solid, mp 164°-165° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.0 mmol, 1.00 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | 2-(3-pyrrolidinyl)-benzenemethanamine | N1CC(CC1)C1=C(C=CC=C1)CN | C11H16N2
product | 5-Amino7-[3-[2-(aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.65 g, 48% | NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(CC1)C1=C(C=CC=C1)CN)F)C1CC1)C(=O)O)=O | C24H24F2N4O3
